US04091109
4-Methyl-3-n-propylthiophenyl 4-methylthiophenyl ether.
4-Methyl-3-(n-propylthio)phenol (4.0 g, 0.02 mole) and 85.5 % potassium hydroxide (1.4 g, 0.02 mole) were dissolved in N,N-dimethylacetamide (40 ml) above 90° C. 4-Bromomethylthiobenzene (4.0 g, 0.02 mole) and Cu powder (0.5 g, 0.008 mole) were added to this solution below 90° C and the mixture was stirred at 120° - 160° C for 14 hr. After cooling, the reaction mixture was poured into water (100 ml) and extracted twice with benzene. The combined organic layers were washed with 5 % sodium hydroxide solution, 5 % hydrochloric acid solution, and water, then dried over sodium sulfate. The solvent was removed, and the residue was distilled under reduced pressure. The yield of 4-methyl-3-n-propylthiophenyl 4-methylthiophenyl ether was 4.1 g (61.5 %), colorless oil, bp 188° - 190° C/2 mmHg. Anal. Found: C, 67.12; H, 6.59. Calcd. for C17H20OS2 : C, 67.06; H, 6.62 %

reactant | 4-Methyl-3-(n-propylthio)phenol | 0.02 mole, 4.0 g | CC1=C(C=C(C=C1)O)SCCC | C10H14OS
reactant | potassium hydroxide | 0.02 mole, 1.4 g | [OH-].[K+]
reactant | 4-Bromomethylthiobenzene | 0.02 mole, 4.0 g | BrCSC1=CC=CC=C1 | C7H7BrS
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylacetamide | 40 ml | CN(C(C)=O)C | C4H9NO
product | 4-Methyl-3-n-propylthiophenyl 4-methylthiophenyl ether | CSC1=CC=C(C=C1)OC1=CC(=C(C=C1)C)SCCC | C17H20OS2
